US03931407
2-(4-Bromophenyl)-1-(3-carboxy-4-hydroxyphenyl)-4,5,6,7-tetrahydroindole ##SPC48##
A mixture of 44.3 g. (0.15 mole) of 2-(p-bromophenacyl)cyclohexanone, 23.0 g. (0.15 mole) of 5-aminosalicylic acid, and 115 ml. of glacial acetic acid was heated under reflux for 2 hours, cooled and filtered. The filter cake was washed with water, dried and recrystallized from acetic acid to provide 11.9 g (19%) of tan crystals, m.p. 231°-232°.

reactant | 2-(p-bromophenacyl)cyclohexanone | 0.15 mole | BrC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H15BrO2
reactant | 5-aminosalicylic acid | 0.15 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Bromophenyl)-1-(3-carboxy-4-hydroxyphenyl)-4,5,6,7-tetrahydroindole | 11.9 g, 19% | BrC1=CC=C(C=C1)C=1N(C=2CCCCC2C1)C1=CC(=C(C=C1)O)C(=O)O | C21H18BrNO3
